US08211911B2
4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-benzyloxyquinoline (600 mg) was mixed with HCONH4 (600 mg) and Pd/C (10%, 100 mg) followed by refluxing 30 min. The reaction was filtered while it was hot and the filtrate was evaporated and washed with water followed by filtration to give 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-hydroxyquinoline (400 mg).

reactant | 4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-benzyloxyquinoline | 600 mg | FC1=C2C=C(NC2=CC=C1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)C | C26H21FN2O3
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-hydroxyquinoline | 400 mg | FC1=C2C=C(NC2=CC=C1OC1=CC=NC2=CC(=C(C=C12)OC)O)C | C19H15FN2O3
